### PR TITLE
[Merged by Bors] - feat(Algebra/Homology): morphisms of cochain complexes that are degreewise epi with an injective kernel

### PR DESCRIPTION
**Pull request by joelriou**
The lemmas which shall be added in subsequent PRs in the folder `Mathlib.Algebra.Homology.Factorizations` will be important in the definition of total derived functors on the bounded below derived categories.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/Factorizations/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,52 @@
...
+
+We define the class of morphisms
+`degreewiseEpiWithInjectiveKernel : MorphismProperty (CochainComplex C ℤ)`
+in the category of cochain complexes in an abelian category `C`.
+
+When restricted to the full subcategory of bounded below cochain complexes in an
+abelian category `C` that has enough injectives, this is the class of
+fibrations for a model category structure on the bounded below
+category of cochain complexes in `C`. In this folder, we intend to prove two factorizations
+lemmas in the category of bounded below cochain complexes (TODO):
```
Comment (chrisflav) [inline Mathlib/Algebra/Homology/Factorizations/Basic.lean:20]:
```suggestion
fibrations for a model category structure on the bounded below
category of cochain complexes in `C`. In this folder, we intend to prove two factorization
lemmas in the category of bounded below cochain complexes (TODO):
```

File: Mathlib/CategoryTheory/Abelian/EpiWithInjectiveKernel.lean [hunk 2]
```diff
@@ -0,0 +1,99 @@
...
+import Mathlib.CategoryTheory.MorphismProperty.Composition
+
+/-!
+# Epimorphisms with an injective kernel
+
+In this file, we define the class of morphisms `epiWithInjectiveKernel` in an
+abelian category. We show that this property of morphisms is multiplicative.
+
+This shall be used in the file `Algebra.Homology.Factorizations.Basic` in
+order to define morphisms of cochain complexes which satisfies this property
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Abelian/EpiWithInjectiveKernel.lean:16]:
```suggestion
order to define morphisms of cochain complexes which satisfy this property
```

File: Mathlib/CategoryTheory/Abelian/EpiWithInjectiveKernel.lean [hunk 3]
```diff
@@ -0,0 +1,99 @@
...
+namespace Abelian
+
+/-- The class of morphisms in an abelian category that are epimorphisms
+and have an injective kernel. -/
+def epiWithInjectiveKernel : MorphismProperty C :=
+  fun _ _ f => Epi f ∧ Injective (kernel f)
+
+/-- A morphism `g : X ⟶ Y` is epi with an injective kernel iff there exists a morphism
+`f : I ⟶ X` with `I` injective such that `f ≫ g = 0` and
+the the short complex `I ⟶ X ⟶ Y` has a splitting. -/
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Abelian/EpiWithInjectiveKernel.lean:36]:
```suggestion
the short complex `I ⟶ X ⟶ Y` has a splitting. -/
```

File: Mathlib/CategoryTheory/Abelian/EpiWithInjectiveKernel.lean [hunk 4]
```diff
@@ -0,0 +1,99 @@
...
+lemma epiWithInjectiveKernel_iff {X Y : C} (g : X ⟶ Y) :
+    epiWithInjectiveKernel g ↔ ∃ (I : C) (_ : Injective I) (f : I ⟶ X) (w : f ≫ g = 0),
+      Nonempty (ShortComplex.mk _ _ w).Splitting := by
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Abelian/EpiWithInjectiveKernel.lean:39]:
```suggestion
    epiWithInjectiveKernel g ↔ ∃ (I : C) (_ : Injective I) (f : I ⟶ X) (w : f ≫ g = 0),
      Nonempty (ShortComplex.mk f g w).Splitting := by
```
I find it easier to read that way.

File: Mathlib/CategoryTheory/Abelian/EpiWithInjectiveKernel.lean [hunk 5]
```diff
@@ -0,0 +1,99 @@
...
+    exact ⟨inferInstance, Injective.of_iso e inferInstance⟩
+
+lemma epiWithInjectiveKernel_of_iso {X Y : C} (f : X ⟶ Y) [IsIso f] :
+    epiWithInjectiveKernel f := by
+  rw [epiWithInjectiveKernel_iff]
+  exact ⟨0, inferInstance, 0, by simp,
+    ⟨ShortComplex.Splitting.ofIsZeroOfIsIso _ (isZero_zero C) (by dsimp; infer_instance)⟩⟩
+
+instance : (epiWithInjectiveKernel : MorphismProperty C).IsMultiplicative where
+  id_mem _ := by apply epiWithInjectiveKernel_of_iso
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Abelian/EpiWithInjectiveKernel.lean:60]:
```suggestion
  id_mem _ := epiWithInjectiveKernel_of_iso _
```

File: Mathlib/CategoryTheory/Abelian/EpiWithInjectiveKernel.lean [hunk 6]
```diff
@@ -0,0 +1,99 @@
...
+          id := by
+            dsimp
+            have h := g₁ ≫= id₂ =≫ σ₁.s
+            simp only [add_comp, assoc, comp_add, id_comp] at h
+            rw [← h] at id₁
+            rw [← id₁]
+            simp only [comp_add, add_comp, assoc, BinaryBicone.inl_fst_assoc,
+              BinaryBicone.inr_fst_assoc, zero_comp, comp_zero, add_zero,
+              BinaryBicone.inl_snd_assoc, BinaryBicone.inr_snd_assoc, zero_add]
+            abel }
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Abelian/EpiWithInjectiveKernel.lean:95]:
```suggestion
    rw [epiWithInjectiveKernel_iff] at hg₁ hg₂ ⊢
    obtain ⟨I₁, _, f₁, w₁, ⟨σ₁⟩⟩ := hg₁
    obtain ⟨I₂, _, f₂, w₂, ⟨σ₂⟩⟩ := hg₂
    refine' ⟨I₁ ⊞ I₂, inferInstance, biprod.fst ≫ f₁ + biprod.snd ≫ f₂ ≫ σ₁.s, _, ⟨_⟩⟩
    · ext
      · simp [reassoc_of% w₁]
      · simp [reassoc_of% σ₁.s_g, w₂]
    · exact
        { r := σ₁.r ≫ biprod.inl + g₁ ≫ σ₂.r ≫ biprod.inr
          s := σ₂.s ≫ σ₁.s
          f_r := by
            ext
            · simp [σ₁.f_r]
            · simp [reassoc_of% w₁]
            · simp
            · simp [reassoc_of% σ₁.s_g, σ₂.f_r]
          s_g := by simp [reassoc_of% σ₁.s_g, σ₂.s_g]
          id := by
            dsimp
            have h := g₁ ≫= σ₂.id =≫ σ₁.s
            simp only [add_comp, assoc, comp_add, id_comp] at h
            rw [← σ₁.id, ← h]
            simp only [comp_add, add_comp, assoc, BinaryBicone.inl_fst_assoc,
              BinaryBicone.inr_fst_assoc, zero_comp, comp_zero, add_zero,
              BinaryBicone.inl_snd_assoc, BinaryBicone.inr_snd_assoc, zero_add]
            abel }
```
Slightly golfed, if you find it less clear now, feel free to ignore it.

**Review by chrisflav — APPROVED** [review]
Looks good to me!

**Comment by joelriou** [comment]
Thanks @chrisflav for the reviews!

**Review by chrisflav — APPROVED** [review]

**Comment by erdOne** [comment]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
